US07259266B2
Step 3. Preparation of ethyl 7-(isobutylamino)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.45 g, 1.54 mmole) and isobutylamine (0.11 g, 1.54 mmole) was dissolved in anhydrous DMF (5 mL), warmed to 90° C. and treated with K2CO3 (0.25 g, 1.84 mmole). The mixture was maintained at 90° C. for 24 hrs, cooled to room temperature, filtered through celite and condensed to a viscous oil (0.53g, 98%). No further purification was performed. LCMS m/z 344.00 (M+H).

reactant | ethyl 7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.54 mmole, 0.45 g | FC1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC | C13H10F4O3
reactant | isobutylamine | 1.54 mmole, 0.11 g | C(C(C)C)N | C4H11N
reactant | K2CO3 | 1.84 mmole, 0.25 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | ethyl 7-(isobutylamino)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C(C(C)C)NC1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC | C17H20F3NO3
